US04245107
484 mg. of 3-(p-hydroxybenzylsulfinyl)butyric acid and 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 309 mg. of 7-[3-(p-hydroxybenzylsulfinyl)butyramido]-3-carbamoyloxymethyl)-3-cephem-4-carboxylic acid were obtained.

reactant | 3-(p-hydroxybenzylsulfinyl)butyric acid | OC1=CC=C(CS(=O)C(CC(=O)O)C)C=C1 | C11H14O4S
reactant | 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
product | 3-cephem-4-carboxylic acid | S1CC=C(N2[C@H]1CC2=O)C(=O)O | C7H7NO3S
